US07598423B2
Synthesis of 1-[2-hydroxy-4-(4-{(tetrahydro-pyran-2-yloxy)-[3-(2H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-3-trifluoromethyl-phenyl]-ethanone
Employing the procedure of Example 1 using 3-[[4-(4-acetyl-3-hydroxy-2-trifluoromethyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile (384 mg, 0.731 mmol), sodium azide (475 mg, 7.31 mmol), and triethylamine hydrochloride (1.01 g, 7.31 mmol) to yield the title compound as a tan solid (400 mg, 96%): 1H NMR (CD3CN) 61.44-1.91 (m, 6H), 2.56 (s, 3H), 3.44 (m, 1H), 3.78 (m, 1H), 4.66 (q, 1H), 5.23 (d, 2H), 5.91 (d, 1H), 6.73 (dd, 1H), 7.39-7.62 (m, 5H), 7.89-8.08 (m, 3H), 13.75 (s, 1H).

reactant | 3-[[4-(4-acetyl-3-hydroxy-2-trifluoromethyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | 0.731 mmol, 384 mg | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)OC2OCCCC2)C=C1)C(F)(F)F)O | C29H26F3NO5
reactant | sodium azide | 7.31 mmol, 475 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 7.31 mmol, 1.01 g | Cl.C(C)N(CC)CC
product | 1-[2-hydroxy-4-(4-{(tetrahydro-pyran-2-yloxy)-[3-(2H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-3-trifluoromethyl-phenyl]-ethanone | 400 mg, 96% | OC1=C(C=CC(=C1C(F)(F)F)OCC1=CC=C(C=C1)C(C1=CC(=CC=C1)C=1N=NNN1)OC1OCCCC1)C(C)=O | C29H27F3N4O5
